US06147049
1,1,2,4,4-Pentamethyl-6-acetyl-7-formyl-1,2,3,4-tetrahydronaphthalene
This compound was prepared according to Example 1 by acetylation of 1,1,2,4,4-Pentamethyl-7-bromo-1,2,3,4-tetrahydonaphtalene, ketalisation with ethyleneglycol, and Grignard-reaction with N-formylmorpholine.

reactant | 1,1,2,4,4-Pentamethyl-7-bromo-1,2,3,4-tetrahydonaphtalene | CC1(C(CC(C2=CC=C(C=C12)Br)(C)C)C)C | C15H21Br
reactant | N-formylmorpholine | C(=O)N1CCOCC1 | C5H9NO2
reactant | ethyleneglycol | C(CO)O | C2H6O2
product | 1,1,2,4,4-Pentamethyl-6-acetyl-7-formyl-1,2,3,4-tetrahydronaphthalene | CC1(C(CC(C2=CC(=C(C=C12)C=O)C(C)=O)(C)C)C)C | C18H24O2
